US05344939
Boc-leucine monohydrate (3.00 g, 12.05 mmol) was azeotropically dried by coevaporation of a solution of the acid in 1:1 toluene/ethyl acetate (100 mL). The oily residue was dissolved in THF (60 mL). CDI (1.95 g, 12.05 mmol) was added. The mixture was stirred at room temperature for 1 hour under N2, whereupon magnesium benzyl fluoromalonate (MBFM) (5.38 g, 12.05 mmol) was added. The mixture was stirred at room temperature overnight. 0.5M HCl (120 mL) was added. The product was extracted with ethyl acetate (2×50 mL), the combined extracts were washed with saturated aqueous NaHCO3 (80 mL), brine (40 mL), dried over MgSO4, filtered, and evaporated to dryness, to give a pale yellow oil, Boc-LeuCHFCOOBzl compound in Table 5 (3.95 g, 86%).

reactant | Boc-leucine monohydrate | 12.05 mmol, 3.00 g | O.C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)O
reactant | CDI | 12.05 mmol, 1.95 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | magnesium benzyl fluoromalonate | 12.05 mmol, 5.38 g | FC(C(=O)OCC1=CC=CC=C1)C(=O)[O-].[Mg+2].C(C1=CC=CC=C1)OC(C(C(=O)[O-])F)=O
reactant | HCl | 0.5M, 120 mL | Cl | ClH
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | toluene ethyl acetate | 100 mL | C1(=CC=CC=C1)C.C(C)(=O)OCC
product | Boc-LeuCHFCOOBzl | N([C@@H](CC(C)C)C(=O)C(F)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C20H28FNO5
